US07439237B2
(1c) (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionic Acid
33.5 g (104.3 mmol) (−)-DIP-chloride dissolved in 195 ml THF was added under protective nitrogen gas to a mixture of 24.5 g (86.9 mmol) (E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-acrylic acid, 12.1 ml (86.9 mmol) triethylamine and 98 ml THF cooled to −20° C. The reaction mixture was stirred for 1.5 hours at −20° C., brought to ambient temperature and evaporated down under reduced pressure. The residue was combined with 200 ml aqueous 1-molar sodium hydroxide solution and 150 ml TBME and stirred thoroughly. The aqueous phase was separated off, acidified with 2-molar hydrochloric acid solution with stirring and extracted twice with 250 ml TBME. The combined organic phases were filtered through activated charcoal and evaporated down under reduced pressure. The residue was heated to boiling with 500 ml of water and the hot solution was filtered clear through Celite. The precipitate formed at ambient temperature was suction filtered and dried at 65° C. in the circulating air dryer.

reactant | (−)-DIP-chloride | 104.3 mmol, 33.5 g | B([C@@H]1CC2CCC([C@H]1C)C2(C)C)([C@@H]3CC4CCC([C@H]3C)C4(C)C)Cl | C22H38BCl
reactant | (E)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-acrylic acid | 86.9 mmol, 24.5 g | NC1=C(C=C(C=C1C(F)(F)F)/C=C(\C(=O)O)/O)Cl | C10H7ClF3NO3
reactant | triethylamine | 86.9 mmol, 12.1 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 195 ml | C1CCOC1 | C4H8O
solvent | THF | 98 ml | C1CCOC1 | C4H8O
product | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionic Acid | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)O)O)Cl | C10H9ClF3NO3
